US04021481
(a) 2,4,6-Triiodobenzoyl chloride
2,4,6-Triiodobenzoic acid (15 g) was suspended in thionyl chloride (75 ml) was refluxed. Thirty minutes after the starting material was dissolved, the reaction solution was cooled and evaporated in vacuo. The residue was dissolved in hot benzene (40 ml), cooled to room temperature, filtered and the filtrate evaporated in vacuo. Yield: 13.6 g. I.R. (KBr): 1785 cm -1 (--COCl).

reactant | 2,4,6-Triiodobenzoic acid | 15 g | IC1=C(C(=O)O)C(=CC(=C1)I)I | C7H3I3O2
reactant | thionyl chloride | 75 ml | S(=O)(Cl)Cl | Cl2OS
product | 2,4,6-Triiodobenzoyl chloride | IC1=C(C(=O)Cl)C(=CC(=C1)I)I | C7H2ClI3O
